US07351401B2
(b) 2-(4-Aminophenyl)benzothiazole (20)
A mixture of 2-(4-nitrophenyl)benzothiazole (105 mg, 0.40 mmol) and tin (II) chloride dihydrate (205 mg, 0.91 mmol) in ethanol (20 mL) was refluxed under N2 for 4 hrs. After removing ethanol by vacuum evaporation. The residue was dissolved into ethyl acetate (20 ml), and washed with NaOH solution (1 N, 3×20 ml) and water (3×20 ml), dried and evaporated to dryness to givelo2 mg (97%) of the product

reactant | 2-(4-nitrophenyl)benzothiazole | 0.40 mmol, 105 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C13H8N2O2S
reactant | tin (II) chloride dihydrate | 0.91 mmol, 205 mg | O.O.[Sn](Cl)Cl
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(4-Aminophenyl)benzothiazole | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C13H10N2S
